US04973576
A solution of 3 g of tetraethyl [(5-n-pentyl-3-isoxazolyl)amino]methylene-bis(phosphonate) in 30 ml of concentrated hydrochloric acid was heated under reflux for 3 hours. After the reaction mixture was concentrated, the solid obtained was washed with acetonitrile to give 1.8 g of [(5-n-pentyl-3-isoxazolyl)amino]methylene-bis(phosphonic acid) as a solid.

reactant | tetraethyl [(5-n-pentyl-3-isoxazolyl)amino]methylene-bis(phosphonate) | 3 g | C(CCCC)C1=CC(=NO1)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C17H34N2O7P2
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | [(5-n-pentyl-3-isoxazolyl)amino]methylene-bis(phosphonic acid) | 1.8 g | C(CCCC)C1=CC(=NO1)NC(P(O)(O)=O)P(O)(O)=O | C9H18N2O7P2
